US04180394
A solution of diethylamine (5.0 ml, 0.05 mole) in 50 ml. of ether was added to a solution of ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate (8.25 g, 0.025 mole) in 150 ml. of ether at 0° C. The solution was stirred for two hours, then filtered and the filtrate treated with a solution of thiophenol (2.4 ml, 0.025 mole) and triethylamine (3.4 ml, 0.025 mole) in 50 ml. of ether at 0° C. After stirring overnight, the solution was filtered and the filtrate was washed with 0.3% aqueous hydrochloric acid, dried over sodium sulfate and concentrated in vacuo to yield ethyl N-trifluoroacetyl-N-(diethylamino(phenylthio)phosphonomethyl)glycinate (8.7 g) as a yellow oil, ND22 =1.5049.

reactant | diethylamine | 0.05 mole, 5.0 ml | C(C)NCC | C4H11N
reactant | ethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate | 0.025 mole, 8.25 g | FC(C(=O)N(CC(=O)OCC)CP(=O)(OCl)OCl)(F)F | C7H9Cl2F3NO6P
reactant | thiophenol | 0.025 mole, 2.4 ml | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 0.025 mole, 3.4 ml | C(C)N(CC)CC | C6H15N
solvent | ether | CCOCC | C4H10O
product | ethyl N-trifluoroacetyl-N-(diethylamino(phenylthio)phosphonomethyl)glycinate | 8.7 g | FC(C(=O)N(CC(=O)OCC)C(P(=O)(OSC1=CC=CC=C1)O)N(CC)CC)(F)F | C17H24F3N2O6PS
